US07635715B2
A solution of 2-(3-chloro-2-fluorophenyl)acetic acid (2.56 g, 13.6 mmol) and thionyl chloride (100 mL, 1371 mmol) was stirred at 95° C. for 2 hours in a 250 mL round bottom flask. The solution was concentrated, azeotroped in toluene, and dried in vacuo to give the crude acid chloride, which was then stirred in EtOH (150 mL, 2576 mmol) at 25° C. for 16 hours. The solution was concentrated in vacuo, diluted with saturated NaHCO3 (aq) (100 mL), and extracted with EtOAc (2×100 mL). The combined organic layers were washed with saturated NaHCO3 (aq) (100 mL), with water (100 mL), and then with brine (75 mL). The organic layer was dried over MgSO4, concentrated, and purified by silica flash column chromatography (0-10% EtOAc in hexane) to give ethyl 2-(3-chloro-2-fluorophenyl)acetate (2.335 g, 79.4% yield). MS m/e=217 (M+H)+.

reactant | 2-(3-chloro-2-fluorophenyl)acetic acid | 13.6 mmol, 2.56 g | ClC=1C(=C(C=CC1)CC(=O)O)F | C8H6ClFO2
reactant | thionyl chloride | 1371 mmol, 100 mL | S(=O)(Cl)Cl | Cl2OS
reactant | EtOH | 2576 mmol, 150 mL | CCO | C2H6O
product | ethyl 2-(3-chloro-2-fluorophenyl)acetate | 2.335 g, 79.4% yield | ClC=1C(=C(C=CC1)CC(=O)OCC)F | C10H10ClFO2
